data/oMe_Silver.jsonl
{"reaction_id": "NR-313_1-OC_2-O_3-N2CCOCC2_4-C(=O)N(C)C_5-Cl","level": "easy","name": "Ullmann Coupling","reactants_smiles": ["c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1I"],"products_smiles": ["c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1c2c(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c2(Cl)"],"conditions": "Cu","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1[Cu]I","step_weight": 0,"rationale": "Cu(0) inserts into the aryl–iodine bond via oxidative addition because iodine is a good leaving group and the aryl–Cu bond is stabilized by π-backbonding from the aromatic ring."},{"step": 2,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1[Cu]","step_weight": 0,"rationale": "Single-electron transfer from Cu to the aryl fragment generates a reactive aryl radical, favored by the low ionization potential of Cu and the stability of the aryl radical through resonance."},{"step": 3,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1[Cu](I)c2c(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c2(Cl)","step_weight": 0,"rationale": "A second oxidative addition occurs with another aryl iodide, driven by the high reactivity of the aryl radical and the good leaving ability of iodide, forming a bis-aryl copper(III) species."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c(Cl)c1c2c(OC)c(O)c(N2CCOCC2)c(C(=O)N(C)C)c2(Cl)","step_weight": 0,"rationale": "Reductive elimination from the Cu(III) complex forms the biaryl product, favored by the thermodynamic stability of the C–C bond and the regeneration of the lower oxidation state Cu catalyst."}],"description": "In the Ullmann coupling, copper mediates the formation of a biaryl bond from aryl iodides. Copper undergoes oxidative addition to the aryl halide, facilitates electron transfer, and couples two aryl groups via a second oxidative addition followed by reductive elimination, forming the C–C bond."}
{"reaction_id": "NR-135_1-CC_2-Cl_3-Br_4-C1CCCCC1","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(CC)(Cl)=C(Br)C(=O)(C1CCCCC1)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(CC)(Cl)=C(Br)C(O)(C1CCCCC1)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(CC)(Cl)=C(Br)C(=[O+][Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)(Cl)=C(Br)C(O[Ce-](Cl)(Cl)Cl)(C1CCCCC1)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(Cl)=C(Br)C(O)(C1CCCCC1)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
